US08242157B2
To a solution of methyl-(5-methyl-2-nitro-phenyl)-amine (2.47 g, 14.9 mmol), ammonium formate (15 g, 237.9 mmol) in THF (7 mL) and MeOH (35 mL) at room temperature was added 10% Pd/C (650 mg) and the resuitng mixture was stirred at room temperature for 10 min. The resulting mixture was then filtered over CELITE® and concentrated in vacuo. The resulting residue was diluted with CH2Cl2, washed with H2O and the organic layer dried over Na2SO4, filtered, and concentrated in vacuo. The resultant residue was purified by flash column chromatography (SiO2), eluting with a hexanes-EtOAc gradient to yield 4,N2-dimethyl-benzene-1,2-diamine

reactant | methyl-(5-methyl-2-nitro-phenyl)-amine | 14.9 mmol, 2.47 g | CNC1=C(C=CC(=C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | ammonium formate | 237.9 mmol, 15 g | C(=O)[O-].[NH4+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | MeOH | 35 mL | CO | CH4O
catalyst | Pd/C | 650 mg | [Pd] | Pd
product | 4,N2-dimethyl-benzene-1,2-diamine | CC=1C=C(C(=CC1)N)NC | C8H12N2
